US06778753B2
2-hydroxy-1-[4-(hydroxyethoxy)phenyl]-2-methyl-1-propanone was allowed to react with 1.1 equivalents of perfluorobutyric anhydride at reflux in tetrahydrofuran for 16 hours. The reaction mixture was poured into water and, and the resulting mixture extracted with ethyl perfluorobutyl ether. The solvent was evaporated under reduced pressure to yield 2-hydroxy-1-[4-(2-heptafluorobutyroxyethoxy)phenyl]-2-methyl-1-propanone.

reactant | 2-hydroxy-1-[4-(hydroxyethoxy)phenyl]-2-methyl-1-propanone | OC(C(=O)C1=CC=C(C=C1)OCCO)(C)C | C12H16O4
reactant | perfluorobutyric anhydride | 1.1 equivalents | FC(C(=O)OC(C(C(C(F)(F)F)(F)F)(F)F)=O)(C(C(F)(F)F)(F)F)F | C8F14O3
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-hydroxy-1-[4-(2-heptafluorobutyroxyethoxy)phenyl]-2-methyl-1-propanone | OC(C(=O)C1=CC=C(C=C1)OCCOC(C(C(C(F)(F)F)(F)F)(F)F)=O)(C)C | C16H15F7O5
